US04359468
A mixture of 6.3 gm of N-(3-chloropropyl)-benzimidazolone, 4.6 gm of 4-piperidine hydrochloride monohydrate, 5.0 gm of sodium bicarbonate, 50 ml of tetrahydrofuran, and 50 ml of dimethylformamide, was heated to reflux, for 36 hours. The product was worked up as usual, yielding 3.2 gm (39% of theory) of N-[3-(4-oxo-piperidino)-propyl]-benzimidazolone, m.p. 134°-136° C.

reactant | N-(3-chloropropyl)-benzimidazolone | 6.3 gm | ClCCCN1C(NC2=C1C=CC=C2)=O | C10H11ClN2O
reactant | sodium bicarbonate | 5.0 gm | C([O-])(O)=O.[Na+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-[3-(4-oxo-piperidino)-propyl]-benzimidazolone | 3.2 gm, 39% | O=C1CCN(CC1)CCCN1C(NC2=C1C=CC=C2)=O | C15H19N3O2
